US04188325
By reacting 5-trifluoromethylisatin with phosphorus penta-chloride, there is obtained 5-trifluoromethylisatin chloride which, on reaction with 3(2H)-thianaphthenone, yields 5'-trifluoromethyl-2'-indole-2-thianaphthenone indigo, which also is useful as a dyestuff.

reactant | 5-trifluoromethylisatin | FC(C=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO2
reactant | phosphorus penta-chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 5-trifluoromethylisatin chloride | [Cl-].FC(C=1C=C2C(C(NC2=CC1)=O)=O)(F)F | InChI=1S/C9H4F3NO2.ClH/c10-9(11,12)4-1-2-6-5(3-4)7(14)8(15)13-6;/h1-3H,(H,13,14,15);1H/p-1
